### PR TITLE
[Merged by Bors] - refactor(AlgebraicTopology/SimplicialSet): truncated paths

### PR DESCRIPTION
**Pull request by gio256**
We refactor the `StrictSegal` infrastructure, making two notable changes:
- The `StrictSegal` class is redefined as a structure, and the class `IsStrictSegal X : Prop` is added in its place.
- `Path`, `StrictSegal`, and related constructions are defined for truncated simplicial sets. A path in a simplicial set `X` is then defined as a 1-truncated path in the 1-truncation of `X`. 

---

- [X] depends on: #21090 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean [hunk 1]
```diff
@@ -5,185 +5,364 @@ Authors: Mario Carneiro, Emily Riehl, Joël Riou, Johan Commelin, Nick Ward
...
-class StrictSegal where
-  /-- The inverse to `X.spine n`.-/
-  spineToSimplex {n : ℕ} : Path X n → X _[n]
-  /-- `spineToSimplex` is a right inverse to `X.spine n`.-/
-  spine_spineToSimplex {n : ℕ} (f : Path X n) : X.spine n (spineToSimplex f) = f
-  /-- `spineToSimplex` is a left inverse to `X.spine n`.-/
-  spineToSimplex_spine {n : ℕ} (Δ : X _[n]) : spineToSimplex (X.spine n Δ) = Δ
+/-- A simplicial set `X` is `SSet.StrictSegal` if the `n + 1`-truncation of `X`
+is `SSet.Truncated.StrictSegal` for all `n : ℕ`. -/
+abbrev StrictSegal := ∀ n : ℕ, truncation (n + 1) |>.obj X |>.StrictSegal
```
Comment (emilyriehl) [inline Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:210]: If I'm reading this correct, `StrictSegal X` is the structure of an (n + 1)-StrictSegal structure on the (n+1)-truncation of `X` for all `n`. If this is right, this feels very redundant because we're specifying explicit equivalences for each map `X.spine m : X _[m]→Path X m` infinitely many times (for each `n` so that `m ≤ n + 1`). 

The code you've deleted specifies each equivalence exactly once. Is there a way to do this while re-using the truncated versions of the code?

Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:210]: This also surprises me a bit. One thought is that this redundancy is removed if `Truncated.StrictSegal` is defined such that an `n + 1`-truncated simplicial set `X` is `Truncated.StrictSegal` when its `n + 1`-simplices are uniquely determined by their spine (rather than its `m`-simplices for all `m ≤ n + 1`). But, this still strikes me as the wrong definition for the truncated case.

Relatedly, I was surprised that I never needed any sort of proof that the `StrictSegal` data at each truncation level agreed with the data from the lower truncation levels. I will give this all some more thought.

Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:210]: Yes, I agree that's the wrong definition in the truncated case. Though perhaps `Truncated.StrictSegal` could be defined such that an `n + 1`-truncated simplicial set `X` is `Truncated.StrictSegal` when its `n + 1`-simplices are uniquely determined by their spine AND its further `n`-truncation is `Truncated.StrictSegal` (inductively now in `n`).

Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:210]: But let's let @joelriou weigh in.

Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:212]: @emilyriehl I believe you have stated a better definition here. I am still working on the best way to define this in lean.

File: Mathlib/AlgebraicTopology/SimplicialSet/Path.lean [hunk 2]
```diff
@@ -1,140 +1,261 @@
...
+/-- `Path.map` respects subintervals of paths. -/
+lemma map_interval (j l : ℕ) (h : j + l ≤ n) :
+    (f.map σ).interval j l h = (f.interval j l h).map σ := rfl
+
+end Path
+
+/-- The spine of an `n`-simplex in `X` is the path of edges of length `n` formed
+by traversing in order through the vertices of `X _[n]ₙ₊₁`. -/
+abbrev spine (n : ℕ) : X _[n] → Path X n :=
+  truncation (n + 1) |>.obj X |>.spine n
```
Comment (gio256) [inline Mathlib/AlgebraicTopology/SimplicialSet/Path.lean:211]: Does it make sense that we would take the `n`-spine in a simplicial set `X` via the `n + 1`-truncation of `X`? Or perhaps the spine should just not be defined for `n = 0`?

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:212]: I would think the easiest approach would be to keep the "old" definition of `StrictSegal`, and to define `X.StrictSegal` for `X : SSet.Truncated (n + 1)` by using mostly the same definition in dimensions in `m ≤ n + 1`. I do not think it is a problem if we have no definition of `StrictSegal` for `0`-truncated simplicial sets...

Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:212]: @joelriou this is extremely helpful, thank you. If I understand your suggestion correctly, it corresponds approximately to what's here now (commit [4abc0d6](https://github.com/leanprover-community/mathlib4/pull/20668/commits/4abc0d6953abe8b850d5f30603d5c604ad24932e)). I am working on an alternative definition that I believe corresponds more closely to @emilyriehl's suggestion above. I will open a PR for comparison.

Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:212]: No, because you have changed the definition of `SSet.StrictSegal`, which seems unnecessary to me.

Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:212]: My mistake. Are you are suggesting that `SSet.StrictSegal` not be defined in terms of `SSet.Truncated.StrictSegal`?

Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:212]: #21105 provides a prototype of a definition more in line with that suggested by @emilyriehl above.

Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:212]: Yes, I was suggesting not changing the definition of `SSet.StrictSegal`, and not using induction. The inductive definition seems a little bit unnecessarily complicated to me (for example: you have to struggle with `trunc`, which would not happen with the more direct definition).
(If we want to provide an "inductive" constructor for `Truncated.StrictSegal` and `SSet.StrictSegal`, I would rather see this as an additional definition which would have as inputs bijections which express that there is a unique way to glue a path of length `1` and a path of length `n` with compatible extremities in order to obtain a path of length `n + 1` (similarly as `ComposableArrows.precomp`)).
My overall suggestion is: keep things simple!

Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:212]: Agreed, simple is good!

For what it's worth, I actually think that the existence of `StrictSegal.trunc` in #21105 solved one of the big issues with the definition here. In a lemma like `spine_δ_arrow_eq` in which the `StrictSegal` data from two different truncation levels is used, `trunc` allowed specifying this in a way which translated much better to the untruncated form of the lemma.

I had not considered implementing two independent definitions of `StrictSegal`. I think you are correct that this will prove much simpler. While I think it will require duplicating some proofs, resorting to copy-paste is not so bad in my opinion. My only real concern is that it may lead to the proliferation of translations between the two notions as we begin to define more constructions on both `SSet` and `SSet.Truncated`.

I will work on implementing the approach you mention so that we have a diff to work with.

Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:212]: #21146 provides a definition of `SSet.StrictSegal` that is independent of `SSet.Truncated.StrictSegal`.

File: Mathlib/AlgebraicTopology/SimplexCategory.lean [hunk 3]
```diff
@@ -742,6 +742,33 @@ noncomputable def inclusion.fullyFaithful (n : ℕ) :
...
+/-- Some quick attempts to prove that `[m]` is `n`-truncated (`[m].len ≤ n`). -/
+macro "trunc" : tactic =>
+  `(tactic| first | decide | assumption |
+    dsimp only [SimplexCategory.len_mk]; omega)
+
+/-- Make a morphism in `Truncated n` from a morphism in `SimplexCategory`. -/
+abbrev Hom.tr {n : ℕ} {a b : SimplexCategory} (f : a ⟶ b)
+    (ha : a.len ≤ n := by trunc) (hb : b.len ≤ n := by trunc) :
+    (⟨a, ha⟩ : Truncated n) ⟶ ⟨b, hb⟩ :=
+  f
```
Comment (gio256) [inline Mathlib/AlgebraicTopology/SimplexCategory.lean:754]: I'm unsure about the name `Hom.tr`. I chose not to use `mk`, as in my mind `SimplexCategory.Truncated.Hom.mk` would logically take an `OrderHom` rather than a `SimplexCategory` morphism.

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean (hunk 1 above)
Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean]: Marking this as resolved since `SSet.StrictSegal` is now defined independently of `SSet.Truncated.StrictSegal`. Thanks for the great feedback on this thread!

File: Mathlib/AlgebraicTopology/SimplexCategory.lean (hunk 3 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean:754]: This seems reasonable to me if the mathlib experts approve.

File: Mathlib/AlgebraicTopology/SimplicialSet/Path.lean [hunk 4]
```diff
@@ -1,145 +1,294 @@
...
+  · dsimp only [spine_arrow, Path.interval]
+    rw [← FunctorToTypes.map_comp_apply, ← op_comp, ← tr_comp,
       mkOfSucc_subinterval_eq]
 
-/-- Two paths of the same nonzero length are equal if all of their arrows are equal. -/
+end Truncated
+
+/-- A path of length `n` in a simplicial set `X` is defined as a 1-truncated
+path on the 1-truncation of `X`. -/
+def Path (X : SSet.{u}) (n : ℕ) := truncation 1 |>.obj X |>.Path n
```
Comment (gio256) [inline Mathlib/AlgebraicTopology/SimplicialSet/Path.lean:149]: Because `Path` is defined here as `truncation 1 |>.obj X |>.Path n` rather than using `Path₁` directly, it unfolds to `((Truncated.trunc 1 1).obj ((truncation 1).obj X)).Path₁ n`. 

While this is defeq to `((truncation 1).obj X).Path₁ n`, it is at the very least confusing to see the extra layer of truncation in the infoview. 

Unfortunately, the only obvious solution I see is to define `SSet.Path` directly in terms of `Path₁`, which I think means duplicating all of the `Truncated.Path` constructions on `Path₁`, as was done before @joelriou suggested cutting down on this duplication.

Is there a better solution (and is it worth implementing)?

Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/Path.lean:149]: We should not have to see any `Path₁` in the infoview. Once a reasonable API is developed for `Truncated.Path` (I think you should add abbreviations `Truncated.Path.vertex/arrow` similarly as the definitions you have done for `SSet.Path`), you may define `SSet.Path` as an abbrev (for `Truncated.Path` of the `1`-truncation). Then, we can add abbreviations `SSet.Path.vertex/arrow`, so that `vertex` takes its values in `X _[0]`. Some API definitions and lemmas will to be duplicated, but the point is that there is only one underlying structure, and all the definitions/proofs for `SSet` should be one-liner applications of the corresponding API for `Truncated.SSet.Path`.

Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplicialSet/Path.lean]: Thanks. I believe I have implemented this in [149cb27](https://github.com/leanprover-community/mathlib4/pull/20668/commits/149cb276b2d1a575ed0b698e7b3776ab6beff0b0), and everything seemed to work out well.

Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplicialSet/Path.lean]: Well, everything except the simpNF linter.

Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/Path.lean]: Maybe the `spine` should be a def rather than abbrev?

Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplicialSet/Path.lean]: I have changed `spine` and `map` to be defs at the `SSet` level, which allowed tagging them `@[simp]` again. I also changed `interval` to be a def, because it seems to fit in the same category as `spine` and `map`. At the `SSet` level, we now have the following:
- `abbrev Path`
- `abbrev vertex`
- `abbrev arrow`
- `def interval`
- `def map`
- `def spine`

My thought is that this should be the right mix of reducibility to keep `dsimp` from dropping down to the `SSet.Truncated` level when you are trying to work at the `SSet` level. But, it may still need some tweaking.

Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplicialSet/Path.lean]: You can see in [`bebab82`](https://github.com/leanprover-community/mathlib4/pull/20668/commits/bebab8276d34aee450b924fcd0cdcf9ea8f08dfd) that the change mentioned above allowed removing some extra `dsimp` truncation lemmas from one spot where I don't think we should need to deal with truncation. I do wish I had some more examples of this to experiment with, though.

Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplicialSet/Path.lean]: Another thought -- Maybe `Path₁` should be private? We would need to add constructors `SSet.Path.mk` and `SSet.Truncated.Path.mk`, but it might make it easier to identify the places where the API falls short.

File: Mathlib/AlgebraicTopology/SimplexCategory/Defs.lean [hunk 5]
```diff
@@ -189,6 +193,29 @@ scoped macro_rules
...
+    tr (f ≫ g) = tr f ≫ tr g :=
+  rfl
+
+/-- The inclusion of `Truncated n` into `Truncated m` when `n ≤ m`. -/
+def incl (n m : ℕ) (h : n ≤ m := by omega) : Truncated n ⥤ Truncated m where
+  obj a := ⟨a.1, a.2.trans h⟩
+  map := id
+
+/-- For all `n ≤ m`, `inclusion n` factors through `Truncated m`. -/
+lemma incl_comp_inclusion {n m : ℕ} (h : n ≤ m) :
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/Defs.lean:215]: These lemmas (as well as `truncation_comp_trunc`) do not seem to be used yet. Instead (or in addition to these), could you add the natural isos versions of these lemmas?

File: Mathlib/AlgebraicTopology/SimplicialObject/Basic.lean [hunk 6]
```diff
@@ -264,6 +264,11 @@ scoped macro_rules
     `(($X : CategoryTheory.SimplicialObject.Truncated _ $n).obj
       (Opposite.op ⟨SimplexCategory.mk $m, $p⟩))
 
+variable (C) in
+/-- Further truncation of truncated simplicial objects. -/
+def trunc (n m : ℕ) (h : m ≤ n := by omega) : Truncated C n ⥤ Truncated C m :=
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialObject/Basic.lean:269]: We probably want some `simp` lemmas attached to this definition.

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean [hunk 7]
```diff
@@ -117,75 +328,71 @@ lemma spine_δ_vertex_lt (f : Path X (n + 1)) {i : Fin (n + 1)} {j : Fin (n + 2)
...
-
 open SSet
 
-/-- Simplices in the nerve of categories are uniquely determined by their spine. Indeed, this
-property describes the essential image of the nerve functor. -/
-noncomputable instance strictSegal (C : Type u) [Category.{v} C] : StrictSegal (nerve C) where
+/-- Simplices in the nerve of categories are uniquely determined by their spine.
+Indeed, this property describes the essential image of the nerve functor. -/
+noncomputable def CategoryTheory.Nerve.strictSegal
+  (C : Type u) [Category.{v} C] : StrictSegal (nerve C) where
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:378]: We probably want to deduce a `IsStrictSegal` instance from this definition.

File: Mathlib/AlgebraicTopology/SimplexCategory/Defs.lean (hunk 5 above)
Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplexCategory/Defs.lean]: I elected to replace the existing lemmas with natural iso versions of the same name. Maybe we want to name these `incl_comp_inclusion_iso` in case we later decide we also want the equalities, though?

File: Mathlib/AlgebraicTopology/SimplexCategory/Defs.lean [hunk 8]
```diff
@@ -189,6 +193,29 @@ scoped macro_rules
...
+    tr (f ≫ g) = tr f ≫ tr g :=
+  rfl
+
+/-- The inclusion of `Truncated n` into `Truncated m` when `n ≤ m`. -/
+def incl (n m : ℕ) (h : n ≤ m := by omega) : Truncated n ⥤ Truncated m where
+  obj a := ⟨a.1, a.2.trans h⟩
+  map := id
+
+/-- For all `n ≤ m`, `inclusion n` factors through `Truncated m`. -/
+def incl_comp_inclusion {n m : ℕ} (h : n ≤ m) :
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/Defs.lean:215]:
```suggestion
def inclCompInclusion {n m : ℕ} (h : n ≤ m) :
```

Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplexCategory/Defs.lean]: Good catch, thanks!

File: Mathlib/AlgebraicTopology/SimplicialObject/Basic.lean (hunk 6 above)
Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplicialObject/Basic.lean:270]: I have added the `@[simps!]` attribute here, but please let me know if you had some more specific simp lemmas in mind.

File: Mathlib/AlgebraicTopology/Quasicategory/Nerve.lean [hunk 9]
```diff
@@ -26,6 +26,6 @@ namespace CategoryTheory.Nerve
 /-- By virtue of satisfying the `StrictSegal` condition, the nerve of a
 category is a `Quasicategory`. -/
 instance quasicategory {C : Type u} [Category.{v} C] :
-  Quasicategory (nerve C) := inferInstance
+  Quasicategory (nerve C) := strictSegal C |>.quasicategory
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/Quasicategory/Nerve.lean:29]: If this is not found by typeclass inference, there is a design problem.

Comment (gio256) [reply Mathlib/AlgebraicTopology/Quasicategory/Nerve.lean:29]: Admittedly, I don't understand typeclass inference in Lean very well, but doesn't the fact that `StrictSegal` is now a structure rather than a class preclude this from being inferred?

Comment (joelriou) [reply Mathlib/AlgebraicTopology/Quasicategory/Nerve.lean:29]: For any theorem which proves that a property (in a class) when there is a structure `StrictSegal X`, you should add an instance under the assumption `IsStrictSegal X`.

Comment (gio256) [reply Mathlib/AlgebraicTopology/Quasicategory/Nerve.lean]: Thanks, I believe I have resolved this in commits [eb69084](https://github.com/leanprover-community/mathlib4/pull/20668/commits/eb69084a9ab667918112c0300dd0478814f792a2) and [b047adf](https://github.com/leanprover-community/mathlib4/pull/20668/commits/b047adfd43b9b17bf33a2689385917c6f525ccb9).

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 10]
```diff
@@ -209,16 +208,22 @@ noncomputable def isPointwiseRightKanExtensionAt (n : ℕ) :
...
-instance isCoskeletal : SimplicialObject.IsCoskeletal X 2 where
-  isRightKanExtension := isRightKanExtension X
+theorem isCoskeletal (sx : StrictSegal X) :
+    SimplicialObject.IsCoskeletal X 2 where
+  isRightKanExtension := sx.isRightKanExtension
+
+/-- When `X` satisfies `IsStrictSegal`, `X` is 2-coskeletal. -/
+instance isCoskeletal' [IsStrictSegal X] :
+    SimplicialObject.IsCoskeletal X 2 where
+  isRightKanExtension := isRightKanExtension <| ofIsStrictSegal X
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:226]: Could you prove this using `isCoskeletal` just above?

**Comment by joelriou** [comment]
Thanks!

bors merge
